US04001426
A solution of 4.9 g. (0.023 mol.) of 2-p-hydroxyphenylbenzofuran in 75 ml. of toluene and 5 ml. of methanol was added to a sodium methoxide solution prepared by dissolving 0.54 g. (0.023 g.-atom) of sodium in 25 ml. of methanol. The mixture was refluxed for 15 minutes, then the methanol was removed by distillation and 3.48 g. (0.023 mol.) of diethylaminopropyl chloride was added and the resulting reaction mixture was refluxed for four hours. The mixture was filtered and the filtrate concentrated under reduced pressure to give 2-[4'-(3-diethylaminopropoxy)phenyl]benzofuran, m.p. 86°-88°.

reactant | 2-p-hydroxyphenylbenzofuran | 0.023 mol | OC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.023 g | [Na] | Na
reactant | diethylaminopropyl chloride | 0.023 mol | C(C)N(CC)CCCCl | C7H16ClN
solvent | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[4'-(3-diethylaminopropoxy)phenyl]benzofuran | C(C)N(CCCOC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2)CC | C21H25NO2
